US07897607B2
Ethyl 1-cyano-6-mesityl-4-oxo-4H-quinolizine-3-carboxylate
Diisopropylamine (1.6 mL, 11.6 mmol) in tetrahydrofuran (15 mL) was charged with n-butyllithium (2.5M, 4.6 mL, 11.6 mmol) at 0° C. The reaction stirred for 0.5 h. The solution was cooled to −20° C. and (6-mesitylpyridin-2-yl)acetonitrile (2.49 g, 10.5 mmol) was added drop wise (as a solution in 5 mL tetrahydrofuran). After 0.5 h, the solution was cooled to −78° C. and diethyl ethoxymethylenemalonate (2.1 mL, 10.5 mmol) was added. The reaction stirred for 0.5 h and was then cooled to room temperature. The reaction was quenched with water and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, filtered and concentrated to give an orange residue. The material was dissolved in acetic acid (20 mL) and heated at 100° C. for 4 h. The solution was cooled and poured into an Erlenmeyer flask and washed with water. The solution was neutralized with saturated sodium bicarbonate. The solution was extracted with ethyl acetate (3 times), dried, and concentrated. Flash chromatography (25% ethyl acetate/hexanes) gave 3.19 g (84% yield) of the title compound as a yellow solid.

reactant | Diisopropylamine | 11.6 mmol, 1.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 11.6 mmol, 2.5M, 4.6 mL | C(CCC)[Li]
reactant | (6-mesitylpyridin-2-yl)acetonitrile | 10.5 mmol, 2.49 g | C1(=C(C(=CC(=C1)C)C)C1=CC=CC(=N1)CC#N)C | C16H16N2
reactant | diethyl ethoxymethylenemalonate | 10.5 mmol, 2.1 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | Ethyl 1-cyano-6-mesityl-4-oxo-4H-quinolizine-3-carboxylate | 3.19 g, 84% yield | C(#N)C=1C=C(C(N2C(=CC=CC12)C1=C(C=C(C=C1C)C)C)=O)C(=O)OCC | C22H20N2O3
